Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Rifabutin
 
Attending: ___.
 
Chief Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ is a ___ ___ speaking woman with a
history of HTN, RA on chronic prednisone, pulmonary 
mycobacterium
avium dx in ___ on long-term triple abx and bronchiectasis who
presents with worsening shortness of breath, fevers, chills and
new O2 requirement. 

She lives at ___ and was diagnosed with a RLL PNA after
CXR from ___ showed a small infiltrate at the right lung
base. She was started on levofloxacin. The CXR was done because
the week prior to her diagnosis, she developed increasing
lethargy, cough, shortness of breath, and was noted to be weaker
as well. Due to persistent symptoms and continued decline on
levofloxacin, she was started on vanc/zosyn on ___. Repeat 
CXR
from  ___ showed COPD and bibasilar atelectasis but no
consolidation. Further work-up included influenza A&B, nasal 
MRSA
both of which were negative and a negative blood culture. She 
did
not have a leukocytosis and WBC was 5.7 on ___ with 80.5%PMNs.
Her WBC count was checked multiple times and there was a
consistent neutrophilic predominance. 

Because the weekend was coming and the patient continued to
decline, the decision was made to transfer to ___ for further
care. 

In the ED, initial VS were: 100.2 102 130.78 28 98% on 4L NC. 
Flu
swab was negative and her WBC was 7.3 with 81.5% PMNS. UA + UCx,
blood cx x 2 were done. CXR showed hyperexpanded lungs and a
questionable left basilar opacity on the frontal view not
confirmed on the lateral view. She was given zosyn and
azithyromycin and transferred to medicine for further 
management.

On arrival to the floor, Ms. ___ is sleeping and history is
obtained through review of the chart in addition to the 
patient's
daughter. The above is confirmed with the patient's daughter. 
Her
daughter also notes her mother's appetite was significantly
reduced over this past week. 

 
Past Medical History:
Pulmonary Mycobacterium avium, on long term triple antibiotics
Bronchiectasis
Rheumatoid arthrisis on immunosuppressive therapy
Peripheral vascular disease
Glaucoma with legal blindness
Osteoporosis on Prolia
Depression 
Anemia of chronic disease 
Cholelithiasis 
Urge incontinence and incomplete bladder emptying 
AAA (2.7 cm w/ intramural thrombus) 

 
Social History:
___
Family History:
Mother - MI 
Father - MI 
Son - prostate cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS:  ___ ___ Temp: 98.2 PO BP: 119/69 HR: 89 RR: 18 O2 
sat:
96% O2 delivery: 3___ 
GENERAL: sleeping
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: dec breast sounds at bases, no wheezes appreciated
throughout lung fields, breathing comfortably without use of
accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: sleeping  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

DISCHARGE PHYSICAL EXAM:
========================
VITALS - 98.0 PO 169 / 96 L Lying 79 20 95 RA
GENERAL - laying comfortably in bed, eyes closed 
EYES - blind in both eyes 
ENT - moist membranes 
CV - regular, normal S1/S2, no murmur 
RESPIRATORY - unlabored breathing, clear bilaterally 
GI - soft, non-tender or distended, normal bowel sounds 
MUSCULOSKELETAL - warm extremities, no edema; temporal wasting
NEUROLOGIC - oriented to place and name, speaks in ___ 
fluently though limited ___ proficiency 
PSYCHIATRIC - calm  

 
Pertinent Results:
ADMISSION LABS:
===============
___ 07:45PM BLOOD WBC-7.3 RBC-3.18* Hgb-10.2* Hct-31.1* 
MCV-98 MCH-32.1* MCHC-32.8 RDW-14.0 RDWSD-49.5* Plt ___
___ 07:45PM BLOOD Neuts-81.5* Lymphs-8.3* Monos-6.8 Eos-2.3 
Baso-0.1 Im ___ AbsNeut-5.91 AbsLymp-0.60* AbsMono-0.49 
AbsEos-0.17 AbsBaso-0.01
___ 07:45PM BLOOD ___ PTT-23.8* ___
___ 07:45PM BLOOD Glucose-121* UreaN-29* Creat-1.1 Na-139 
K-4.1 Cl-99 HCO3-27 AnGap-13
___ 05:37AM BLOOD Calcium-8.7 Phos-3.2 Mg-1.8
___ 08:04PM BLOOD Lactate-1.1

IMAGING:
=======
___ CXR
Hyperexpanded lungs.  Questionable left basilar opacity on the 
frontal view though not confirmed on the lateral view. 

___ CXR
Comparison to ___.  The patient carries a right PICC 
line.  The  tip of the line projects over the axillary and does 
not enter the thoracic  cavity.  No pneumothorax or other 
complication.  Otherwise unchanged radiograph. 

___ CTA CHEST 
1. No evidence of pulmonary embolism or acute aortic 
abnormality. 
2. Diffuse bilateral mosaic attenuation, nonspecific.  No 
secondary signs of pulmonary arterial hypertension. 
3. Unchanged 8 mm left lower lobe cavitary lesion as well as 
several 
subcentimeter nodules.
4. Multiple areas of impacted airways are again noted. 

MICROBIOLOGY:
=============
___ BLOOD CX, X2 ---- NGTD
___ URINE CX: negative 
___ BLOOD CX, X2 ---- NGTD
___ RAPID RESPIRATORY VIRAL PANEL: negative 
___ MRSA SCREEN: negative 

URINE LEGIONELLA: negative
URINE STREP ANTIGEN: ----- pending 

DISCHARGE LABS:
===============
___ 06:40AM BLOOD WBC-5.0 RBC-3.39* Hgb-10.8* Hct-32.4* 
MCV-96 MCH-31.9 MCHC-33.3 RDW-13.9 RDWSD-47.9* Plt ___
___ 06:40AM BLOOD Glucose-103* UreaN-19 Creat-0.8 Na-140 
K-4.0 Cl-103 HCO3-24 AnGap-___ woman with a history of rheumatoid arthritis on 
chronic immunosuppressive therapy,  pulmonary Mycobacterium 
avium, with bronchiectasis, on chronic triple antibiotic 
therapy, osteoporosis, PVD presents with persistent
fevers and new O2 requirement. 

Active Issues
=============
# Acute hypoxemic respiratory failure. 
# Viral URI. 
Was treated for pneumonia, with CAP coverage, and is now nearly 
complete with HCAP coverage. Imaging failed to show significant 
infiltrate, as outpatient, or here. No leukocytosis, though she 
is immunosuppressed due to her RA therapies. Concern for PE,
given hypoxia without infiltrates, and presentation with 
tachycardia. CTA chest obtained to rule out PE and for further 
evaluation of the lungs, which showed no PE, diffuse GGOs 
(likely from either known ___ infection vs. possible 
superimposed viral infection), with mucus plugging. Continued 
antibiotics to complete a 5 day course of vancomycin and 
cefepime (had been on Zosyn prior), as well as guaifenesin & 
chest ___ for mucolysis. Prior to hospitalization, she had 
received 5 days of levofloxacin.

Chronic Issues
==============
#Bronchiectasis secondary to
#Pulmonary mycobacterium avium:  Followed by Dr. ___. 
Continued azithromycin 250mg PO daily, ethambutol 900mg PO 
daily, rifampin 600mg PO twice daily.

#Rheumatoid arthritis: On Xeljanz, methotrexate and prednisone. 
Held Xeljanz on admission, while on antibiotics, though 
restarted on discharge. Continued weekly methotrexate. Continued 
prednisone but increased dose to 15mg PO daily x 3 days for 
stress dosing. 

#Glaucoma: Legally blind. Continued all drops.
#Peripheral Vascular disease: Continued ASA & cilostazol.
#HTN: Continued lisinopril; consider decreasing dose, and 
allowing for higher BP goal, of <140/90 

Transitional Issues
===================
- Re: lisinopril; consider decreasing dose, and allowing for 
higher BP goal, of <140/90 

Time Attestation
================
45 minutes spent on coordination of care & discharge planning, 
including face-to-face time for counseling. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
2. Albuterol Inhaler 2 PUFF IH Q6H 
3. Artificial Tears Preserv. Free ___ DROP RIGHT EYE TID 
4. Aspirin 81 mg PO DAILY 
5. Atorvastatin 40 mg PO QPM 
6. Cilostazol 100 mg PO BID 
7. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP RIGHT EYE BID 
8. Ethambutol HCl 900 mg PO DAILY 
9. FoLIC Acid 1 mg PO DAILY 
10. Rifampin 600 mg PO DAILY 
11. tofacitinib 5 mg oral BID 
12. Vancomycin 1000 mg IV Q 24H 
13. Piperacillin-Tazobactam 3.375 g IV Q12H 
14. Azithromycin 250 mg PO Q24H 
15. Heparin 5000 UNIT SC BID 
16. Saccharomyces boulardii 250 mg oral DAILY 
17. Salmeterol Xinafoate Diskus (50 mcg) 1 INH IH Q12H 
18. Famotidine 20 mg PO DAILY 
19. Levothyroxine Sodium 150 mcg PO DAILY 
20. Polyethylene Glycol 17 g PO DAILY 
21. PredniSONE 5 mg PO DAILY 
22. Methotrexate 12.5 mg PO QTUES 
23. ipratropium bromide 0.03 % nasal BID 
24. Latanoprost 0.005% Ophth. Soln. 1 DROP RIGHT EYE QHS 
25. ammonium lactate 12 % topical BID:PRN 
26. Simethicone 40-80 mg PO QID:PRN abdominal pain 
27. Ipratropium-Albuterol Neb 1 NEB NEB TID 
28. Lisinopril 40 mg PO DAILY 
29. Potassium Chloride 10 mEq PO DAILY 
30. Bisacodyl ___AILY:PRN constipation 
31. Sodium Chloride Nasal ___ SPRY NU TID:PRN dry nose 

 
Discharge Medications:
1.  GuaiFENesin ER 600 mg PO Q12H  
2.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
3.  Albuterol Inhaler 2 PUFF IH Q6H  
4.  ammonium lactate 12 % topical BID:PRN  
5.  Artificial Tears Preserv. Free ___ DROP RIGHT EYE TID  
6.  Aspirin 81 mg PO DAILY  
7.  Atorvastatin 40 mg PO QPM  
8.  Azithromycin 250 mg PO Q24H  
9.  Bisacodyl ___AILY:PRN constipation  
10.  Cilostazol 100 mg PO BID  
11.  Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP RIGHT EYE BID  
12.  Ethambutol HCl 900 mg PO DAILY  
13.  Famotidine 20 mg PO DAILY  
14.  FoLIC Acid 1 mg PO DAILY  
15.  Heparin 5000 UNIT SC BID  
16.  ipratropium bromide 0.03 % nasal BID  
17.  Ipratropium-Albuterol Neb 1 NEB NEB TID  
18.  Latanoprost 0.005% Ophth. Soln. 1 DROP RIGHT EYE QHS  
19.  Levothyroxine Sodium 150 mcg PO DAILY  
20.  Lisinopril 40 mg PO DAILY  
21.  Methotrexate 12.5 mg PO QTUES  
22.  Polyethylene Glycol 17 g PO DAILY  
23.  Potassium Chloride 10 mEq PO DAILY 
Hold for K >  
24.  PredniSONE 5 mg PO DAILY  
25.  Rifampin 600 mg PO DAILY  
26.  Saccharomyces boulardii 250 mg oral DAILY  
27.  Salmeterol Xinafoate Diskus (50 mcg) 1 INH IH Q12H  
28.  Simethicone 40-80 mg PO QID:PRN abdominal pain  
29.  Sodium Chloride Nasal ___ SPRY NU TID:PRN dry nose  
30.  tofacitinib 5 mg oral BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
#Viral URI 
#Bronchiectasis 
#Hypoxia
#Pulmonary ___

 
___ Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital with low oxygen levels.

We tested you for a blood clot, and this was NEGATIVE (NO CLOT).
Your scan showed evidence of an infection, likely a VIRUS. You 
finished 2 courses of antibiotics (1 before coming to the 
hospital, and the second, stronger one, while in the hospital).

Your oxygen improved, and will continue to improve, as the virus 
leaves your body.

We wish you a speedy recovery!
Your ___ Care Team 
 
Followup Instructions:
___